US04816452
f. 2-(2-Aminothiazol-4-yl)-(Z)-2-[1-(trans-4-methylcyclohexyl)-1-methylethoxyimino]acetic acid
Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-[1-(trans-4-methylcyclohexyl)-1-methylethoxyimino]acetate (630 mg, 1.78 mmol) in ethanol (14 ml) and water (2 ml) was treated with 1M NaOH (1.78 ml) and the mixture was stirred at room temperature for 5 days. The ethanol was removed by evaporation in vacuo and the residual mixture was treated with ethyl acetate (100 ml) and water (100 ml) and the pH was adjusted to 3.0. The aqueous layer was extracted with ethyl acetate (3×30 ml). The combined ethyl acetate layers were dried (MgSO4) and evaporated to leave the title compound (390 mg, 67%), νmax (KBr) 3290, 3120, 2942, 1724, 1616, 1447, 1380, and 985 cm-1 ; δH (250 MHz, (CD3)2SO), 0.84 (3H, d, J 6.4 Hz), 1.17 (6H, s), 0.7-1.9 (10 H, m), 6.78 (1H, s), 7.25 (2H, s), and 13.5 (1H, broad s).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-[1-(trans-4-methylcyclohexyl)-1-methylethoxyimino]acetate | 1.78 mmol, 630 mg | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC(C)(C)[C@@H]1CC[C@H](CC1)C | C17H27N3O3S
reactant | NaOH | 1M, 1.78 ml | [OH-].[Na+]
solvent | ethanol | 14 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-[1-(trans-4-methylcyclohexyl)-1-methylethoxyimino]acetic acid | 390 mg, 67% | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)(C)[C@@H]1CC[C@H](CC1)C | C15H23N3O3S
